US07238716B2
To a mixture of 3-cyano-2-[4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]-3-methoxybenzyloxy]pyridine (6.30 g) and anhydrous toluene (250 mL) was dropwise added a solution (0.95 M, 47 mL) of diisobutylaluminum hydride in hexane at −78° C. The reaction mixture was allowed to warm to room temperature with stirring for 1 hr. A saturated aqueous ammonium chloride solution (50 mL) was dropwise added to the reaction mixture at 0° C. and ethyl acetate was further added. Insoluble materials were filtered off and the filtrate was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give crystals (1.0 g, yield 16%) of 2-[4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]-3-methoxybenzyloxy]-3-pyridinecarbaldehyde from a fraction eluted with ethyl acetate-hexane (2:3, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 120-121° C.

reactant | 3-cyano-2-[4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]-3-methoxybenzyloxy]pyridine | 6.30 g | C(#N)C=1C(=NC=CC1)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C23H19N3O5
reactant | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 0.95 M, 47 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 2-[4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]-3-methoxybenzyloxy]-3-pyridinecarbaldehyde | 1.0 g, yield 16% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NC=CC=C2C=O)C=C1)OC)C | C23H20N2O6
